US07132551B2
Sodium hydride (583 mg, 14.6 mmol) in DMSO (6 mL) was heated to 55° C. for 1 h. The reaction mixture is cooled to 0° C. and Me3SI (3 g, 14.62 mmol) dissolved in THF (9.8 mL) was added dropwise. 1-Benzyl-piperidine-3-one (1.5 g, 6.64 mmol) dissolved in DMSO (10 mL) was added 15 minutes later. After completion of addition the reaction proceded at RT. After 30 min. the reaction was quenched with water. The aqueous layer was extracted with hexanes. Combined organic layers were dried over Na2SO4 and concentrated. The crude material was purified using silica gel chromatography (9:1 DCM:hexanes in 2 M ammonia in EtOH) to yield 5-benzyl-1-oxa-5-aza-spiro[2.5]octane (960 mg, 71%). MH+ (204).

reactant | Sodium hydride | 14.6 mmol, 583 mg | [H-].[Na+]
reactant | 1-Benzyl-piperidine-3-one | 6.64 mmol, 1.5 g | C(C1=CC=CC=C1)N1CC(CCC1)=O | C12H15NO
reactant | DMSO | 6 mL | CS(=O)C | C2H6OS
reactant | DMSO | 10 mL | CS(=O)C | C2H6OS
solvent | THF | 9.8 mL | C1CCOC1 | C4H8O
product | 5-benzyl-1-oxa-5-aza-spiro[2.5]octane | 960 mg, 71% | C(C1=CC=CC=C1)N1CC2(CO2)CCC1 | C13H17NO
